US04111681
A mixture of 6.3 parts of 2-(4-chloro-2-fluorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one, 7.9 parts of phosphorous oxybromide, 3.7 parts of N,N-diethylaniline and 10 parts of N,N-dimethylformamide was refluxed 24 hours and poured into 100 parts of water. After neutralizing with 50% aqueous sodium hydroxide solution, the mixture was extracted twice with 100 parts of diethyl ether. The ether extract was dried over anhydrous magnesium sulfate and the solvent was removed under a reduced pressure of 100 mm. Hg at ambient temperature. The crude product was recrystallized from ethanol-water to yield 2.1 parts of 3-bromo-2-(4-chloro-2-fluorophenyl)-2,4,5,6-tetrahydrocyclopentapyrazole melting at 106°-110°.

reactant | 2-(4-chloro-2-fluorophenyl)-1,4,5,6-tetrahydrocyclopentapyrazol-3(2H)-one | ClC1=CC(=C(C=C1)N1NC2=C(C1=O)CCC2)F | C12H10ClFN2O
reactant | phosphorous oxybromide | P(=O)(Br)(Br)Br | Br3OP
reactant | N,N-diethylaniline | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-bromo-2-(4-chloro-2-fluorophenyl)-2,4,5,6-tetrahydrocyclopentapyrazole | BrC=1N(N=C2C1CCC2)C2=C(C=C(C=C2)Cl)F | C12H9BrClFN2
